US09415027B2
Step 3. 4-((1-Oxo-5-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-2-yl)methyl)benzoic acid
Aqueous lithium hydroxide (1 N, 0.11 mL, 0.11 mmol) was added to a solution of methyl 4-((1-oxo-5-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-2-yl)methyl)benzoate (10 mg, 0.023 mmol) in THF (0.23 mL) in a 1 dram vial. The vial was sealed and heated at 40° C. After 24 h, the reaction mixture was allowed to cool and the volatiles were evaporated under a stream of nitrogen. The residue was diluted with water (0.5 mL), acidified with 1 N aqueous HCl (0.5 mL) and extracted with EtOAc (3×2 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford 9 mg of the title compound.

reactant | lithium hydroxide | 0.11 mmol, 1 N, 0.11 mL | [OH-].[Li+]
reactant | methyl 4-((1-oxo-5-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-2-yl)methyl)benzoate | 0.023 mmol, 10 mg | O=C1C(CCC2=C(C=CC=C12)C1=CC(=CC=C1)C(F)(F)F)CC1=CC=C(C(=O)OC)C=C1 | C26H21F3O3
solvent | THF | 0.23 mL | C1CCOC1 | C4H8O
product | 4-((1-Oxo-5-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-2-yl)methyl)benzoic acid | 9 mg | O=C1C(CCC2=C(C=CC=C12)C1=CC(=CC=C1)C(F)(F)F)CC1=CC=C(C(=O)O)C=C1 | C25H19F3O3
